US07462639B2
[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-carbamic acid ethyl ester
[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-carbamic acid ethyl ester was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (250 mg, 0.81 mmol) and ethyl chloroformate (84 μl, 0.89 mmol). The title compound was obtained as brown powder (100 mg, 32%).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.81 mmol, 250 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | ethyl chloroformate | 0.89 mmol, 84 μl | ClC(=O)OCC | C3H5ClO2
product | [3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-carbamic acid ethyl ester | C(C)OC(NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1)=O | C19H22N6O3
